US08877782B2
{6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone
As described for example 105, 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (99 mg, 0.33 mmol) was converted, using morpholine instead of 2,2,2-trifluoroethylamine, to the title compound (16 mg, 13%) which was obtained as a white solid. MS: m/e=398.3 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.33 mmol, 99 mg | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | {6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-morpholin-4-yl-methanone | 16 mg, 13% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1CCOCC1)C | C21H20FN3O4
